US09428470B2
D) 1-(3-(2-(5,5-Bis(carboxymethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoyl)piperidine-4-carboxylic acid
A mixture of ethyl 1-(3-(2-(5,5-bis(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoyl)piperidine-4-carboxylate (760 mg), THF (8 mL), methanol (8 mL), and a 1 M aqueous sodium hydroxide solution (8 mL) was stirred at room temperature for 2 hours. The reaction mixture was rendered acidic using 6 M hydrochloric acid at 0 C, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure to obtain the title compound (664 mg).

reactant | ethyl 1-(3-(2-(5,5-bis(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoyl)piperidine-4-carboxylate | 760 mg | COC(CC1(CC(=NO1)C1=C(C=CC(=C1)O)CCC(=O)N1CCC(CC1)C(=O)OCC)CC(OC)=O)=O | C26H34N2O9
reactant | THF | 8 mL | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1 M, 8 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | methanol | 8 mL | CO | CH4O
product | 1-(3-(2-(5,5-Bis(carboxymethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoyl)piperidine-4-carboxylic acid | 664 mg | C(=O)(O)CC1(CC(=NO1)C1=C(C=CC(=C1)O)CCC(=O)N1CCC(CC1)C(=O)O)CC(=O)O | C22H26N2O9
